US05614504
Arginine-5'-inosine monophosphate was prepared by the reaction of inosine-5'-monophosphate with arginine using dicyclohexylcarbodiimide as a condensing agent.

reactant | inosine-5'-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(O)=NC=NC12)O)O | C10H13N4O8P
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | Arginine 5'-inosine monophosphate | N[C@@H](CCCNC(N)=N)C(=O)O.C1=NC(=O)C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | InChI=1S/C10H13N4O8P.C6H14N4O2/c15-6-4(1-21-23(18,19)20)22-10(7(6)16)14-3-13-5-8(14)11-2-12-9(5)17;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,6-7,10,15-16H,1H2,(H,11,12,17)(H2,18,19,20);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t4-,6-,7-,10-;4-/m10/s1
